US06953857B2
4-Bromo-3-[2-(2,4-dichloro-phenyl)-ethoxy]-benzoic acid
2 g of 4-Bromo-3-[2-(2,4-dichloro-phenyl)-ethoxy]-benzoic acid methyl ester was dissolved in 10 ml of MeOH:water/3:1. 230 mg of lithium hydroxide monohydrate were added to the solution, and the reaction was stirred at RT for 16 h then at 50° C. for 2 h. The solution was cooled to RT, then acidified with half-concentrated hydrochloric acid. The suspension was concentrated under reduced pressure and then extracted with ethyl acetate. The organic layer was dried over Na2SO4 and the solvent was removed under reduced pressure to yield a white solid. Yield 2.2 g

reactant | 4-Bromo-3-[2-(2,4-dichloro-phenyl)-ethoxy]-benzoic acid methyl ester | 2 g | COC(C1=CC(=C(C=C1)Br)OCCC1=C(C=C(C=C1)Cl)Cl)=O | C16H13BrCl2O3
reactant | water | O | H2O
reactant | lithium hydroxide monohydrate | 230 mg | O.[OH-].[Li+]
reactant | hydrochloric acid | Cl | ClH
solvent | MeOH | 10 ml | CO | CH4O
product | 4-Bromo-3-[2-(2,4-dichloro-phenyl)-ethoxy]-benzoic acid | BrC1=C(C=C(C(=O)O)C=C1)OCCC1=C(C=C(C=C1)Cl)Cl | C15H11BrCl2O3
